US07056918B2
N-[2-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-oxo-1-m-tolyl-ethyl]-3-methoxy-propionamide
N-[2-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-hydroxy-1-m-tolyl-ethyl]-3-methoxy-propionamide (433 mg, 0.96 mmol) was dissolved in methylene chloride (9.6 mL) and N-methylmorpholine N-oxide (168.7 mg, 1.44 mmol) was added. After stirring for ten minutes, TPAP (20.2 mg, 0.06 mmol) was added. The reaction was stirred for 1 hour, after which time LCMS and TLC (ethyl acetate) indicated complete reaction. The reaction mixture was poured into saturated aqueous sodium bicarbonate and additional methylene chloride was added. The organic phase was separated and washed with brine, followed by aqueous copper sulfate. The organic phase was then filtered through a plug of silica gel, eluting with ethyl acetate. Concentration of the filtrate afforded 294 mg of a white X solid that was used without further purification.

reactant | N-[2-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-hydroxy-1-m-tolyl-ethyl]-3-methoxy-propionamide | 0.96 mmol, 433 mg | C1(CCCC1)N1C(N(C2=C1C=CC(=C2)C(C(C=2C=C(C=CC2)C)NC(CCOC)=O)O)C)=O | C26H33N3O4
reactant | N-methylmorpholine N-oxide | 1.44 mmol, 168.7 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 9.6 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.06 mmol, 20.2 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | N-[2-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-oxo-1-m-tolyl-ethyl]-3-methoxy-propionamide | C1(CCCC1)N1C(N(C2=C1C=CC(=C2)C(C(C=2C=C(C=CC2)C)NC(CCOC)=O)=O)C)=O | C26H31N3O4
